US08629272B2
Step 2: Synthesis of 1-(2-Cyano-acetyl)-3-phenyl-urea
Cyanoacetic acid (28 g, 340 mmol) was taken in 20 ml acetic acid and 40 ml acetic anhydride (400 mmol), stirred at 50° C. until all cyanoacetic acid was solved. Phenyl urea (33.05 g, 247.5 mmol) was added and the mixture was stirred at 95° C. for 60 minute under LC-MS (Liquid Chromatography coupled with Mess Spectrometer) control of the reaction progress. After cooling down to room temperature, dilution with 20 ml 2-propanol and storing at 4° C. for 2 h, solids were separated by filtration, washed with cold 2-propanol and dried under high vacuum giving 40.06 g of white solids (82.6%).

reactant | Cyanoacetic acid | 340 mmol, 28 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | 400 mmol, 40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Phenyl urea | 247.5 mmol, 33.05 g | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | 2-propanol | 20 ml | CC(C)O | C3H8O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Cyano-acetyl)-3-phenyl-urea | 40.06 g, 82.6% | C(#N)CC(=O)NC(=O)NC1=CC=CC=C1 | C10H9N3O2
